US08895572B2
Step H: (2R)—N-{(5R,6S,8S)-5-Methyl-6-phenyl-3-[1-(trifluoromethyl)cyclopropyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridin-8-yl}-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxamide
To a solution of (5R,6S,8S)-5-methyl-6-phenyl-3-[1-(trifluoromethyl)cyclopropyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-amine (19.0 mg, 0.056 mmol) in N,N-dimethylformamide (565 μL) was added (2R)-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxylic acid (19.0 mg, 0.68 mmol), 1-hydroxy-7-azabenzotriazole (0.77 mg, 5.7 μmol), N-methylmorpholine (14.9 μL, 0.136 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (13.0 mg, 0.068 mmol). The mixture was stirred 30 min. Water was added, and the mixture was purified by reverse phase chromatography (C-18, 95% water/acetonitrile→15% water/acetonitrile with 0.1% trifluoroacetic acid) giving the title compound (21 mg). HRMS 599.2367 (M+1). 1H NMR (400 MHz, DMSO): δ 11.12 (s, 1H); 9.19 (d, J=8.2 Hz, 1H); 8.08-8.05 (m, 1H); 7.85 (s, 1H); 7.82 (d, J=8.0 Hz, 1H); 7.41 (t, J=6.9 Hz, 3H); 7.36-7.27 (m, 3H); 7.23 (dd, J=7.3, 1.6 Hz, 1H); 6.89 (dd, J=7.3, 5.3 Hz, 1H); 5.43 (dt, J=10.7, 7.8 Hz, 1H); 4.69-4.61 (m, 1H); 3.70 (d, J=13.5 Hz, 1H); 3.43 (d, 16.3 Hz, 2H); 3.21 (d, J=16.3 Hz, 2H); 2.67-2.56 (m, 1H); 2.36-2.25 (m, 1H); 1.73 (d, J=10.3 Hz, 1H); 1.63-1.51 (m, 2H); 1.25 (d, J=9.3 Hz, 1H); 1.17 (t, J=6.5 Hz, 3H).

reactant | (5R,6S,8S)-5-methyl-6-phenyl-3-[1-(trifluoromethyl)cyclopropyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-amine | 0.056 mmol, 19.0 mg | C[C@@H]1[C@@H](C[C@@H](C=2N1C(=NN2)C2(CC2)C(F)(F)F)N)C2=CC=CC=C2 | C17H19F3N4
reactant | (2R)-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxylic acid | 0.68 mmol, 19.0 mg | O=C1[C@]2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)C(=O)O | C16H12N2O3
reactant | 1-hydroxy-7-azabenzotriazole | 5.7 μmol, 0.77 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-methylmorpholine | 0.136 mmol, 14.9 μL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.068 mmol, 13.0 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 565 μL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | (2R)—N-{(5R,6S,8S)-5-Methyl-6-phenyl-3-[1-(trifluoromethyl)cyclopropyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridin-8-yl}-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxamide | 21 mg | C[C@@H]1[C@@H](C[C@@H](C=2N1C(=NN2)C2(CC2)C(F)(F)F)NC(=O)C=2C=C1C[C@]3(C(NC4=NC=CC=C43)=O)CC1=CC2)C2=CC=CC=C2 | C33H29F3N6O2
